US05968944
1-{4-[4-(2-Ethoxy-naphthalen-1-ylmethyl)-3,5-diethyl-pyrazol-1-yl]-3,5-dimethylphenyl}-propan-1-ol
A solution of 1-(4-bromo-2,6-dimethylphenyl)4-(2-ethoxy-naphthalen-1ylmethyl)-3,5-diethyl-1H pyrazole (0.200 g, 0.41 mmol) in 1.0 ml of anhydrous tetrahydrofuran was added dropwise to a dry ice-acetone both cooled 2.5 M solution of n-butyl lithium (0.179 ml, 0.45 mmol) in hexane. After stirring the reaction mixture 10 minutes, propionaldehyde (0.089 ml, 1.23 mmol) was added. The resulting mixture was stirred 10 minutes, and then removed from the cooling bath and stirred 2 hours. 0.5 ml aqueous saturated ammonium chloride solution was added to quench the reaction. After stirring 10 minutes, the reaction mixture was extracted with methylene chloride/brine (10 ml of each). The aqueous phase was then twice extracted with fresh 10 ml portions of methylene chloride. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo to afford an oil (216 mg). Flash chromatography of the entire sample (silica gel, 40 micron mesh; elution with ethyl acetate/hexanes=3:7 in volume) yielded 133 mg of the title compound as an oil.

reactant | 1-(4-bromo-2,6-dimethylphenyl)4-(2-ethoxy-naphthalen-1ylmethyl)-3,5-diethyl-1H pyrazole | 0.41 mmol, 0.200 g | BrC1=CC(=C(C(=C1)C)N1N=C(C(=C1CC)CC1=C(C=CC2=CC=CC=C12)OCC)CC)C | C28H31BrN2O
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-butyl lithium | 0.45 mmol, 0.179 ml | C(CCC)[Li]
reactant | propionaldehyde | 1.23 mmol, 0.089 ml | C(CC)=O | C3H6O
solvent | tetrahydrofuran | 1.0 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-{4-[4-(2-Ethoxy-naphthalen-1-ylmethyl)-3,5-diethyl-pyrazol-1-yl]-3,5-dimethylphenyl}-propan-1-ol | 216 mg | C(C)OC1=C(C2=CC=CC=C2C=C1)CC=1C(=NN(C1CC)C1=C(C=C(C=C1C)C(CC)O)C)CC | C31H38N2O2
